US07888347B2
2-[4-(3-Methyl-1,2,4-oxadiazol-5-yl)phenyl]-6-(2-methylpropyl)-2,4,5,6,7,8-hexahydropyrazolo[3,4-d]azepine (E21)
To a solution of 2-[4-(3-methyl-1,2,4-oxadiazol-5-yl)phenyl]-2,4,5,6,7,8-hexahydropyrazolo[3,4-d]azepine (may be prepared as described in Description 35) (31 mg, 0.10 mmol) in dichloromethane (4 ml) was added 2-methylpropanal (30 mg, 0.42 mmol) and acetic acid (3 drops). The resulting mixture was stirred at room temperature, under argon, for 20 minutes. Sodium triacetoxyborohydride (89 mg, 0.42 mmol) was added and stirring continued overnight. The resulting crude mixture was diluted with methanol and then purified by SCX, eluting with methanol and then with 2M ammonia/methanol. The basic fractions were combined and solvent evaporated in vacuo. Crude product was purified further by column chromatography on silica gel, eluting with a mixture of 2M ammonia in methanol in dichloromethane (0-1%) to afford the title compound (E21). MS (ES+) m/e 352 [M+H]+.

reactant | 2-[4-(3-methyl-1,2,4-oxadiazol-5-yl)phenyl]-2,4,5,6,7,8-hexahydropyrazolo[3,4-d]azepine | 0.10 mmol, 31 mg | CC1=NOC(=N1)C1=CC=C(C=C1)N1N=C2CCNCCC2=C1 | C16H17N5O
reactant | 2-methylpropanal | 0.42 mmol, 30 mg | CC(C=O)C | C4H8O
reactant | Sodium triacetoxyborohydride | 0.42 mmol, 89 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 2-[4-(3-Methyl-1,2,4-oxadiazol-5-yl)phenyl]-6-(2-methylpropyl)-2,4,5,6,7,8-hexahydropyrazolo[3,4-d]azepine | CC1=NOC(=N1)C1=CC=C(C=C1)N1N=C2CCN(CCC2=C1)CC(C)C | C20H25N5O
